### PR TITLE
feat(CategoryTheory): The (closed) monoidal structure on the product category of families of (closed) monoidal categories

### PR DESCRIPTION
**Pull request by sinhp**
Given a family of closed monoidal categories, we show that the product of these categories
is a closed monoidal category with the pointwise monoidal structure.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/CategoryTheory/Pi/Monoidal.lean [hunk 1]
```diff
@@ -0,0 +1,54 @@
...
+  tensorHom_def _ _ := by ext i; simp only [tensorHom, tensorHom_def, comp_apply]
+  tensor_id _ _ := by ext i; aesop
+  tensor_comp _ _ _ _ := by ext i; aesop
+  whiskerLeft_id _ _ := by ext i; aesop
+  id_whiskerRight _ _ := by ext i; aesop
+  associator_naturality _ _ _ := by ext i; aesop
+  leftUnitor_naturality _ := by ext i; aesop
+  rightUnitor_naturality _ := by ext i; aesop
+  pentagon _ _ _ _ := by ext i; aesop
+  triangle _ _ := by ext i; aesop
```
Comment (b-mehta) [inline Mathlib/CategoryTheory/Pi/Monoidal.lean:50]: I'm guessing that these are all explicitly written because aesop_cat can't do them? If that's correct, perhaps this is a sign that we should add ext to the set of things aesop_cat tries.

File: Mathlib/CategoryTheory/Pi/Monoidal.lean [hunk 2]
```diff
@@ -0,0 +1,54 @@
...
+namespace Pi
+
+open Category MonoidalCategory
+
+universe w₁ v₁ u₁
+
+variable {I : Type w₁} (C : I → Type u₁) [∀ i, Category.{v₁} (C i)]
+[∀ i, MonoidalCategory (C i)]
+
+/-- `Pi.monoidal C` equipps the product of an indexed family of categories with
```
Comment (b-mehta) [inline Mathlib/CategoryTheory/Pi/Monoidal.lean:29]:
```suggestion
/-- `Pi.monoidal C` equips the product of an indexed family of categories with
```

File: Mathlib/CategoryTheory/Pi/Monoidal.lean [hunk 3]
```diff
@@ -0,0 +1,54 @@
...
+Copyright (c) 2025 Sina Hazratpour. All rights reserved.
+Released under Apache 2.0 license as described in the file LICENSE.
+Authors: Sina Hazratpour
+-/
+
+import Mathlib.CategoryTheory.Pi.Basic
+import Mathlib.CategoryTheory.Monoidal.Category
+
+/-!
+# The pointwise monoidal strucutre on the product of families of monoidal categories
```
Comment (b-mehta) [inline Mathlib/CategoryTheory/Pi/Monoidal.lean:11]:
```suggestion
# The pointwise monoidal structure on the product of families of monoidal categories
```

File: Mathlib/CategoryTheory/Pi/Monoidal.lean [hunk 4]
```diff
@@ -0,0 +1,54 @@
...
+
+open Category MonoidalCategory
+
+universe w₁ v₁ u₁
+
+variable {I : Type w₁} (C : I → Type u₁) [∀ i, Category.{v₁} (C i)]
+[∀ i, MonoidalCategory (C i)]
+
+/-- `Pi.monoidal C` equipps the product of an indexed family of categories with
+a pointwise monoidal structure. -/
```
Comment (b-mehta) [inline Mathlib/CategoryTheory/Pi/Monoidal.lean:30]:
```suggestion
the pointwise monoidal structure. -/
```
optional, but I think of there being only one pointwise monoidal structure!

File: Mathlib/CategoryTheory/Pi/Basic.lean [hunk 5]
```diff
@@ -153,13 +153,23 @@ end
...
 /-- An isomorphism between `I`-indexed objects gives an isomorphism between each
 pair of corresponding components. -/
 @[simps]
 def isoApp {X Y : ∀ i, C i} (f : X ≅ Y) (i : I) : X i ≅ Y i :=
   ⟨f.hom i, f.inv i,
     by rw [← comp_apply, Iso.hom_inv_id, id_apply], by rw [← comp_apply, Iso.inv_hom_id, id_apply]⟩
 
+lemma isoMk_app {X Y : ∀ i, C i} {iso : ∀ i, X i ≅ Y i} {i : I} :
+    (isoMk iso).hom i = (iso i).hom := by rfl
+
```
Comment (b-mehta) [inline Mathlib/CategoryTheory/Pi/Basic.lean:172]: Let's keep this lemma next to its definition, rather than separated. Also, doesn't `simps` make this one automatically?

Comment (sinhp) [reply Mathlib/CategoryTheory/Pi/Basic.lean]: indeed, this was not needed, we already had `isoMk_hom`.

File: Mathlib/CategoryTheory/Pi/Monoidal.lean (hunk 1 above)
Comment (sinhp) [reply Mathlib/CategoryTheory/Pi/Monoidal.lean]: right, I should have tried `aesop_cat`, it does work. consistent with the mathlib tradition, I removed all the axiom fields that `aesop_cat` alone solves.

File: Mathlib/CategoryTheory/Pi/MonoidalClosed.lean [hunk 6]
```diff
@@ -0,0 +1,59 @@
...
+namespace CategoryTheory
+
+namespace Pi
+
+open Category MonoidalCategory ihom
+
+universe w₁ v₁ u₁
+
+variable {I : Type w₁} {C : I → Type u₁} [∀ i, Category.{v₁} (C i)]
+[∀ i, MonoidalCategory (C i)] [∀ i, MonoidalClosed (C i)]
```
Comment (TwoFX) [inline Mathlib/CategoryTheory/Pi/MonoidalClosed.lean:28]:
```suggestion
  [∀ i, MonoidalCategory (C i)] [∀ i, MonoidalClosed (C i)]
```

File: Mathlib/CategoryTheory/Pi/Monoidal.lean [hunk 7]
```diff
@@ -0,0 +1,45 @@
...
+open Category MonoidalCategory
+
+universe w₁ v₁ u₁
+
+variable {I : Type w₁} (C : I → Type u₁) [∀ i, Category.{v₁} (C i)]
+[∀ i, MonoidalCategory (C i)]
+
+/-- `Pi.monoidal C` equips the product of an indexed family of categories with
+the pointwise monoidal structure. -/
+@[simps]
```
Comment (TwoFX) [inline Mathlib/CategoryTheory/Pi/Monoidal.lean:31]: `simps` doesn't generate all the lemmas that would be useful during manual rewrites. Could you add
```lean
theorem associator_hom_apply {X Y Z : ∀ i, C i} {i : I} :
    (α_ X Y Z).hom i = (α_ (X i) (Y i) (Z i)).hom := rfl

theorem isoApp_associator {X Y Z : ∀ i, C i} {i : I} :
    isoApp (α_ X Y Z) i = α_ (X i) (Y i) (Z i) := rfl
```
and so on, also for the inverse of the associator, and the left and right unitor?

File: Mathlib/CategoryTheory/Pi/MonoidalClosed.lean [hunk 8]
```diff
@@ -0,0 +1,59 @@
...
+/-- `Pi.monoidalClosed C` equipps the product of a family of closed monoidal categories with
+a pointwise closed monoidal structure. -/
+instance monoidalClosed : MonoidalClosed (∀ i, C i) where
+    closed X := {
+      rightAdj := closedIhom X
+      adj := {
+        unit := closedUnit X
+        counit := closedCounit X
+      }
+    }
```
Comment (TwoFX) [inline Mathlib/CategoryTheory/Pi/MonoidalClosed.lean:55]: We use the following style for structure instances:
```suggestion
  closed X :=
  { rightAdj := closedIhom X
    adj :=
    { unit := closedUnit X
      counit := closedCounit X } }
```

File: Mathlib/CategoryTheory/Pi/Monoidal.lean [hunk 9]
```diff
@@ -0,0 +1,45 @@
+/-
+Copyright (c) 2025 Sina Hazratpour. All rights reserved.
+Released under Apache 2.0 license as described in the file LICENSE.
+Authors: Sina Hazratpour
+-/
+
```
Comment (TwoFX) [inline Mathlib/CategoryTheory/Pi/Monoidal.lean:6]:
```suggestion
```

File: Mathlib/CategoryTheory/Pi/MonoidalClosed.lean [hunk 10]
```diff
@@ -0,0 +1,59 @@
+/-
+Copyright (c) 2025 Sina Hazratpour. All rights reserved.
+Released under Apache 2.0 license as described in the file LICENSE.
+Authors: Sina Hazratpour
+-/
+
```
Comment (TwoFX) [inline Mathlib/CategoryTheory/Pi/MonoidalClosed.lean:6]:
```suggestion
```

File: Mathlib/CategoryTheory/Pi/MonoidalClosed.lean [hunk 11]
```diff
@@ -0,0 +1,59 @@
...
+import Mathlib.CategoryTheory.Closed.Monoidal
+import Mathlib.CategoryTheory.Pi.Monoidal
+
+
```
Comment (TwoFX) [inline Mathlib/CategoryTheory/Pi/MonoidalClosed.lean:10]: No blank line after the copyright header, exactly one blank line before the module doc.
```suggestion
```

**Review by YaelDillies — APPROVED** [review]
Looks straightforward enough. A category theorist to review?

maintainer merge

File: Mathlib/CategoryTheory/Pi/Monoidal.lean [hunk 12]
```diff
@@ -0,0 +1,71 @@
...
+    isoApp (λ_ X) i = λ_ (X i) := rfl
+
+theorem right_unitor_hom_apply {X : ∀ i, C i} {i : I} :
+    (ρ_ X).hom i = (ρ_ (X i)).hom := rfl
+
+theorem right_unitor_inv_apply {X : ∀ i, C i} {i : I} :
+    (ρ_ X).inv i = (ρ_ (X i)).inv := rfl
+
+theorem isoApp_right_unitor {X : ∀ i, C i} {i : I} :
+    isoApp (ρ_ X) i = ρ_ (X i) := rfl
```
Comment (jcommelin) [inline Mathlib/CategoryTheory/Pi/Monoidal.lean:67]: Should all of these be tagged with `@[simp]`? They look like good simp-lemmas to me.

Comment (sinhp) [reply Mathlib/CategoryTheory/Pi/Monoidal.lean]: Just added `@[simp]` to all such theorems, then I get linter errors like this 

```
Error: ././././Mathlib/CategoryTheory/Pi/Monoidal.lean:50:1: error: @CategoryTheory.Pi.isoApp_associator Left-hand side simplifies from
  CategoryTheory.Pi.isoApp (CategoryTheory.MonoidalCategoryStruct.associator X Y Z) i
to
  CategoryTheory.Pi.isoApp
  (CategoryTheory.Pi.isoMk fun i => CategoryTheory.MonoidalCategoryStruct.associator (X i) (Y i) (Z i)) i
using
  dsimp only [@CategoryTheory.Pi.monoidal_associator]
Try to change the left-hand side to the simplified term!
```
This is because of `@[simps]` above the monoidal instance.  One approach to resolve this is to remove this  `@[simps]`, and define `tensorObj`, etc before this instance similar to `Monoidal.FunctorCategory`. Or can you suggest another fix?

Comment (YaelDillies) [reply Mathlib/CategoryTheory/Pi/Monoidal.lean]: > One approach to resolve this is to remove this `@[simps]`, and define `tensorObj`, etc before this instance similar to `Monoidal.FunctorCategory`.

That's probably the correct approach, yes

**Comment by joneugster** [comment]
Mathlib has moved to PRs from forks. This PR is still from a branch of the main repository and will soon be closed! Please migrate the content to a fork and reopen a PR from there if you wish to do so. See [Zulip topic](https://leanprover.zulipchat.com/#narrow/channel/287929-mathlib4/topic/all.20future.20PRs.20should.20be.20made.20from.20forks/with/624081853) for more instructions. Thank you for contributing to mathlib!
